2191-01-21 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - frequent runs of NSVT, longest 15 beats, started while he was
   sleeping ; started on low dose metoprolol (pt and daughter do not
   recall reason for atenolol allergy listed), and amio gtt dose increased
   to 1mg/hr, stat electrolytes sent; when awakened, feels "warmth" ;
   slowly decreased frequency and stopped NSVT episodes for rest of night
   - pt did feel like his ICD went off but no correlating event on
   telemetry
   Allergies:
   Atenolol
   Unknown;
   Atorvastatin
   Unknown;
   Carbamazepine
   Unknown;
   Chlorhexidine
   Unknown;
   Codeine
   Unknown;
   Fentanyl
   Unknown;
   Oxycodone
   Unknown;
   Propoxyphene
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-21**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 70 (66 - 70) bpm
   BP: 104/62(72) {91/35(52) - 136/66(82)} mmHg
   RR: 21 (7 - 23) insp/min
   SpO2: 99%
   Heart rhythm: A Paced
   Height: 70 Inch
             Total In:
                                                                     96 mL
                                                                    386 mL
   PO:
             TF:
   IVF:
                                                                     96 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                    125 mL
                                                                    700 mL
   Urine:
                                                                    125 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -29 mL
                                                                   -314 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, dry mucus
   membranes.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts.  Well healed sternal scar.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
   unlabored, no accessory muscle use. CTAB with crackles R lower base
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. Palpable DPs and PTs.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   251 K/uL
   12.4 g/dL
   169
   2.0 mg/dL
   31 mEq/L
   5.3 mEq/L
   35 mg/dL
   99 mEq/L
   137 mEq/L
   39.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2191-1-20**]  11:26 PM
                             [**2191-1-21**]  04:55 AM
                             [**2191-1-21**]  07:00 AM
   WBC
   7.6
   Hct
   39.2
   Plt
   251
   Cr
   2.1
   2.0
   Glucose
   173
   181
   169
   Other labs: PT / PTT / INR:13.1/27.1/1.1, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   68M with MMP presents with VT storm and ICD firing. Transferred for EP
   ablation.
   # VTach:
   Frequent episodes overnight, helped by increasing amiodarone drip.
   Likely that VT originating from scar tissue, but trigger unclear.
   Ruled out with negative cardiac enzymes x2 at outside hospital, but may
   have had an ischemic event. [**Month (only) 11**] be difficult to ablate given 2 recent
   amio loads, which likely also make recent shocks less effective.   Went
   to EP lab this AM, will have pacer interrogated again and attempt at VT
   ablation.  Started on low dose metoprolol last night for frequent NSVT
   episodes.
   - Medications per EP recs
   - continue b-blockers and amio
   - consider DC digoxin vs decrease dose b/c of interaction with
   amiodarone
   -- maintain lytes repleted
   - avoid adrenergic stimuli
   # CAD:
   Ruled out for MI at OSH and no ischemic changes on EKG.
   - Continue ASA, statin, plavix, BB
   # HTN:
   Well controlled with home regimen
   - Continue metoprolol
   # Hyperlipidemia:
   -- Continue Zetia/Simvastatin
   # COPD:
   Prior smoking history, intermittent O2 use at home, usually with CHF
   flairs.
   -- O2 prn
   # Afib: Well rate controlled, currently A paced. On no anticoagulation
   although CHADS score is 6!
   -- Continue ASA, Plavix for now. No heparin drip.
   # CRI:
   At baseline 1.7, increased to 2.0 this AM.
   n        Given mucomyst for presumed contrast w procedure
   n        - continue to trend
   # OSA:
   -- Consider CPAP machine while here
   # Diabetes:
   -- Continue home Novolog and Lantus
   # BPH:
   -- Continue home meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-1-21**] 12:00 AM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: daughter
   [**Name (NI) 129**] status: full code
   Disposition: ICU
   ------ Protected Section ------
   Patient was experiencing chest pain on EP table, taken for Cardiac
   Catheterization afterwards in case of ischemic trigger for frequent
   VT.  Medications will be per EP and Interventional Cardiology
   recommendations.  Will need to monitor creatinine further in setting of
   contrast load with Cath procedure.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2309**] [**Last Name (NamePattern1) 8562**], MD
   on:[**2191-1-21**] 11:06 ------

2191-01-22 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Multiple ICD firings
   24 Hour Events:
   - pt having chest pain during EP procedure, able to map LV -  thought
   coming from right ventricle. Developed chest pain, to cath.
   - sent to Cath lab 2 [** 1285**] to proximal and mid LCx
   - per EP fellow, PO amio 200mg daily, keep over weekend for
   observation, if develops VT will ablate, they dont think related to
   ischemia
   - episode of chest pain [**3-19**], EKG unchanged except V6 - appears to be
   lead placement, patient asleep when went to examine
   Allergies:
   Atenolol
   Unknown;
   Atorvastatin
   Unknown;
   Carbamazepine
   Unknown;
   Chlorhexidine
   Unknown;
   Codeine
   Unknown;
   Fentanyl
   Unknown;
   Oxycodone
   Unknown;
   Propoxyphene
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Insulin - Humalog - [**2191-1-21**] 08:37 PM
   Heparin Sodium (Prophylaxis) - [**2191-1-21**] 08:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-22**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 70 (68 - 70) bpm
   BP: 108/65(74) {90/43(56) - 121/75(81)} mmHg
   RR: 24 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
   Height: 70 Inch
             Total In:
                                                                  2,644 mL
                                                                     77 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  2,244 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    250 mL
   Urine:
                                                                  1,450 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,194 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent.  ?Femoral bruit noted over catherization site.
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   220 K/uL
   11.8 g/dL
   169
   2.0 mg/dL
   31 mEq/L
   5.3 mEq/L
   35 mg/dL
   99 mEq/L
   137 mEq/L
   35.6 %
   10.6 K/uL
        [image002.jpg]
                             [**2191-1-20**]  11:26 PM
                             [**2191-1-21**]  04:55 AM
                             [**2191-1-21**]  07:00 AM
                             [**2191-1-22**]  06:37 AM
   WBC
   7.6
   10.6
   Hct
   39.2
   35.6
   Plt
   251
   220
   Cr
   2.1
   2.0
   Glucose
   173
   181
   169
   Other labs: PT / PTT / INR:13.1/27.1/1.1, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   68M with MMP presents with VT storm and ICD firing. Transferred for EP
   ablation, developed CP while in the lab and therefore went to the cath
   lab, at which point [**Year (4 digits) 1285**] x2 were placed to his LCx
   # VTach: The patient had another episode this morning, he is now s/p
   voltage mapping of left ventricle which did not show a focus.  He
   developed chest pain while in EP lab, and had a cath with [**Year (4 digits) 1285**] to
   proximal and mid LCx 90% and 80% lesions.
   - Medications per EP recs
   - continue b-blockers and amio
   - replete lytes aggressively.
   - avoid adrenergic stimuli
   # CAD: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1285**] [**Last Name (Prefixes) 9743**] to proximal and mid LCx as above.  He will
   require plavix x 1 year.
   -          Continue ASA, statin, plavix, BB
   -          Will check femoral ultrasound for potential pseudoaneurysm.
   # HTN:
   Well controlled with home regimen
   - Continue metoprolol
   # Hyperlipidemia:
   -- Continue Zetia/Simvastatin
   # COPD:
   Prior smoking history, intermittent O2 use at home, usually with CHF
   flairs.
   -- O2 prn
   # Afib: Well rate controlled, currently A paced. On no anticoagulation
   although CHADS score is 6
   -- Continue ASA, Plavix for now. No heparin drip.
   # CRI:
   At baseline 1.7, increased to 2.0 this AM.
   n        Given mucomyst for presumed contrast w procedure
   n        - continue to trend
   # OSA: patient had apneaic episodes last night.
   - continue with CPAP
   # Diabetes:
   -- Continue home Novolog and Lantus
   # BPH:
   -- Continue home meds
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:  novolog/lantus
   Lines:
   20 Gauge - [**2191-1-21**] 12:00 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: CCU

2191-01-23 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - digoxin discontinued.
   - amiodarone increased to 300mg, digoxin discontinued per EP recs.
   - femoral bruit noted not known to be old, femoral ultrasound prelim
   read showed no pseudoaneurysm.
   - periodic NSVT, longest run 7 beats in AM.
   - cough appeared to be worsening, blood cultures drawn and
   ceftriaxone/azithromycin started for pneumonia.
   - patient had BS=68 at 10pm, (had been given 10 units of novolog for BS
   of 101 previously).  Glargine decreased from 30-20Units and sliding
   scale changed to be much less aggressive.
   - patient complained of shortness of breath at 1am - pacer
   intermittently not picking up or pacing.  De-saturation to 81% on 5L
   NC, patient placed on NRB, sat to 100%.  CXR -> increased
   cephalization, 40 IV lasix and nebs given, to good effect.  EKG
   unchanged, ABG showed minimal retention and good oxygenation.
   Allergies:
   Atenolol
   Unknown;
   Atorvastatin
   Unknown;
   Carbamazepine
   Unknown;
   Chlorhexidine
   Unknown;
   Codeine
   Unknown;
   Fentanyl
   Unknown;
   Oxycodone
   Unknown;
   Propoxyphene
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2191-1-22**] 10:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-1-22**] 10:00 PM
   Omeprazole (Prilosec) - [**2191-1-22**] 10:00 PM
   Furosemide (Lasix) - [**2191-1-23**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-23**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 70 (61 - 73) bpm
   BP: 115/60(73) {79/39(52) - 127/79(84)} mmHg
   RR: 22 (15 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Wgt (current): 81 kg (admission): 36.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,420 mL
                  PO:
                                                                  1,260 mL
                  TF:
   IVF:
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    400 mL
   Urine:
                                                                  1,225 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    195 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.35/46/299/21/0
   PaO2 / FiO2: 460
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   right > left, Diminished: on right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   11.2 g/dL
   116 mg/dL
   2.5 mg/dL
   21 mEq/L
   4.7 mEq/L
   50 mg/dL
   100 mEq/L
   134 mEq/L
   37
   12.0 K/uL
        [image002.jpg]
                             [**2191-1-20**]  11:26 PM
                             [**2191-1-21**]  04:55 AM
                             [**2191-1-21**]  07:00 AM
                             [**2191-1-22**]  06:37 AM
                             [**2191-1-23**]  01:02 AM
                             [**2191-1-23**]  01:42 AM
   WBC
   7.6
   10.6
   12.0
   Hct
   39.2
   35.6
   35.1
   37
   Plt
   [**Telephone/Fax (3) 10953**]
   Cr
   2.1
   2.0
   1.9
   2.5
   TCO2
   26
   Glucose
   173
   181
   169
   94
   108
   116
   Other labs: PT / PTT / INR:13.0/29.6/1.1, CK / CKMB / Troponin-T:59//,
   Lactic Acid:0.8 mmol/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   68M with MMP presents with VT storm and ICD firing. Transferred for EP
   ablation, developed CP while in the lab and therefore went to the cath
   lab, at which point [**Telephone/Fax (3) 1285**] x2 were placed to his LCx
   #Pneumonia
 patient has RLL pneumonia with effusion on CXR.
   -          will switch from ceftriaxone azithromycin to vanc/cefepime
   to cover healthcare-associated pneumonia.
   -          Get decubitus film to eval size of effusion, potential
   loculation.
   #Acute kidney injury
 likely secondary to dye load, however may have
   pre-renal component
   -          check FeUrea, FeNA, urinary eosinophils.
   -          give some maintenance fluids in the setting of poor Po
   intake if patient does not take PO fluids.
   -          Hold ace inhibitor.
   # VTach: The patient had another episode this morning, he is now s/p
   voltage mapping of left ventricle which did not show a focus.  He
   developed chest pain while in EP lab, and had a cath with [**Telephone/Fax (3) 1285**] to
   proximal and mid LCx 90% and 80% lesions.
   - Medications per EP recs
   - continue b-blockers and amio
   - replete lytes aggressively.
   - avoid adrenergic stimuli
   # CAD: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1285**] [**Last Name (Prefixes) 9743**] to proximal and mid LCx as above.  He will
   require plavix x 1 year.
   -          Continue ASA, statin, plavix, BB
   -
   # HTN:
   Well controlled with home regimen
   - Continue metoprolol
   # Hyperlipidemia:
   -- Continue Zetia/Simvastatin
   # COPD:
   Prior smoking history, intermittent O2 use at home, usually with CHF
   flairs.
   n        O2 prn
   n        Albuterol and atrovent nebs
   # Afib: Well rate controlled, currently A paced. On no anticoagulation
   although CHADS score is 6
   -- Continue ASA, Plavix for now. No heparin drip.
   # OSA:
   - continue with CPAP
   # Diabetes:
   -- Continue home Novolog and Lantus
   # BPH:
   -- Continue home meds
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:  As above
   Lines:
   20 Gauge - [**2191-1-21**] 12:00 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: n/a
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: CCU

2191-01-24 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CHEST PAIN - At [**2191-1-23**] 11:55 AM
   Pain i L shoulder radiating to L hand, not in chest. Givein 2 sl NTG
   0.3mg with resolution of discomfort
   - 11:45am L shoulder/arm [**6-18**] pain, no EKG changes though diffic to
   interpret w BBB; improved to [**4-18**] w SL nitro x1, received another SL
   nitro ; tylenol for nitro headache; then fell asleep w pain improved ;
   stated that he has this pain at home frequently and doesnt do anything
   about it ; pain similar to what he had on EP table [**1-21**] but not as
   severe
   - urine eosinophils negative ;
   - FeUrea 35%
   - given 500cc fluids b/c poor po intake over the day
   - continued to get chest PT
   - Right Decub CXR showed layering of the right-sided effusion along the
   right chest wall and right lung apex, though w/o complete clearing of
   fluid from the right lung base --> loculated?
   - increased O2 requirement from 35%FiO2 on face tent (w 2LNC) to 55%,
   stable for rest of night
   - frequent periods of time where pacer did not appear to capture at all
   Allergies:
   Atenolol
   Unknown;
   Atorvastatin
   Unknown;
   Carbamazepine
   Unknown;
   Chlorhexidine
   Unknown;
   Codeine
   Unknown;
   Fentanyl
   Unknown;
   Oxycodone
   Unknown;
   Propoxyphene
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2191-1-22**] 10:30 PM
   Vancomycin - [**2191-1-23**] 11:22 AM
   Cefipime - [**2191-1-23**] 12:33 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 70 (70 - 72) bpm
   BP: 106/53(67) {92/40(53) - 124/66(80)} mmHg
   RR: 23 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AV Paced
   Wgt (current): 81 kg (admission): 36.4 kg
   Height: 70 Inch
                  Total In:
                                                                  1,370 mL
                                                                    260 mL
   PO:
                                                                    620 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    750 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    320 mL
   Urine:
                                                                  1,450 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -80 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, sleeping
   comfortably
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: trace DP pulses, feet warm and well perfused
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   right > left, Diminished: on right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities:  no lower extremity edema
   Labs / Radiology
   174 K/uL
   10.9 g/dL
   87 mg/dL
   2.3 mg/dL
   24 mEq/L
   5.1 mEq/L
   56 mg/dL
   99 mEq/L
   135 mEq/L
   33.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2191-1-20**]  11:26 PM
                             [**2191-1-21**]  04:55 AM
                             [**2191-1-21**]  07:00 AM
                             [**2191-1-22**]  06:37 AM
                             [**2191-1-23**]  01:02 AM
                             [**2191-1-23**]  01:42 AM
                             [**2191-1-24**]  03:35 AM
   WBC
   7.6
   10.6
   12.0
   10.4
   Hct
   39.2
   35.6
   35.1
   37
   33.5
   Plt
   [**Telephone/Fax (3) 10971**]74
   Cr
   2.1
   2.0
   1.9
   2.5
   2.3
   TCO2
   26
   Glucose
   173
   181
   169
   94
   108
   116
   87
   Other labs: PT / PTT / INR:13.0/29.6/1.1, CK / CKMB / Troponin-T:59//,
   Lactic Acid:0.8 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   68M with MMP presents with VT storm and ICD firing. Transferred for EP
   ablation, developed CP while in the lab and therefore went to the cath
   lab, at which point [**Telephone/Fax (3) 1285**] x2 were placed to his LCx
   # Hypoxia
 patient has known pneumonia with sputum culture pending and
   large Right sided pleural effusion.  Patient
s hypoxia seems out of
   proportion to pneumonia and loculated pleural effusion; consider that
   he may have PE.  Appears that he had aspirated in EP lab.
   -          cont to treat pneumonia
   -          consider Interventional pulmonology consult to drain
   loculated effusion
   -          consider LENIs and/or D-Dimer
   -          F/u EP recs
   # Pneumonia
 patient has RLL pneumonia with effusion on CXR.
   Switched from Ceftriaxone/Azithro to Cefepime/Vanc yesterday for
   healthcare-associated pneumonia.  Decub Xray appears to show loculated
   effusion; not likely empyema, no fevers.  Appears to have aspirated in
   EP lab late last week.
   -          continue vanc/cefepime (day# 3 total abx ; day #2
   vanc/cefepime)
   -          add metronidazole for anaerobic coverage
   .
   # Acute kidney injury
 likely secondary to dye load post Cath, however
   may have pre-renal component.  Urine Eosinophils negative. FeUrea
   borderline.  Given 500cc fluids yesterday because of poor po intake and
   appeared dry on exam.  Creatine stable from yesterday.
   -                Hold ace inhibitor
   -                Continue to trend ; consider repeat urine lytes, may
   still be prerenal
 appeared to respond to fluids yesterday, though O2
   requirement increased
   # VTach-- Small runs of Vtach overnight.  He developed chest pain while
   in EP lab, and had a cath with [**Telephone/Fax (3) 1285**] to proximal and mid LCx 90% and 80%
   lesions.
   - Medications per EP recs
   - continue b-blockers and amio
   - replete electrolytes as needed
   - avoid adrenergic stimuli
   # CAD: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1285**] [**Last Name (Prefixes) 9743**] to proximal and mid LCx as above.  He will
   require plavix x 1 year.
   -          Continue ASA, statin, plavix, BB
   # HTN:
   Well controlled with home regimen
   - Continue metoprolol
   # Hyperlipidemia:
   -- Continue Zetia/Simvastatin
   # COPD:
   Prior smoking history, intermittent O2 use at home, usually with CHF
   flairs.
   - O2 prn
   - Albuterol and atrovent nebs
   # Afib: Well rate controlled, currently A paced. On no anticoagulation
   although CHADS score is 6
   -- Continue ASA, Plavix for now. No heparin drip.
   # OSA:
   - continue with CPAP
   # Diabetes:
   -- Continue home Novolog and Lantus
   # BPH:
   -- Continue home meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-1-24**] 06:30 AM
   Prophylaxis:
   DVT:  heparin sQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition:  CCU

2191-01-25 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: VT storm, pneumonia
   24 Hour Events:
   -LENIs negative
   -started on flagyl for aspiration in cath lab
   -D-Dimer elevated.
   -started on heparin IV
   Allergies:
   Atenolol
   Unknown;
   Atorvastatin
   Unknown;
   Carbamazepine
   Unknown;
   Chlorhexidine
   Unknown;
   Codeine
   Unknown;
   Fentanyl
   Unknown;
   Oxycodone
   Unknown;
   Propoxyphene
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2191-1-22**] 10:30 PM
   Vancomycin - [**2191-1-23**] 11:22 AM
   Cefipime - [**2191-1-24**] 12:50 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-1-24**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-25**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 70 (70 - 70) bpm
   BP: 124/62(67) {89/47(62) - 124/81(85)} mmHg
   RR: 26 (16 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AV Paced
   Wgt (current): 81 kg (admission): 36.4 kg
   Height: 70 Inch
             Total In:
                                                                  1,057 mL
                                                                     85 mL
   PO:
                                                                    770 mL
             TF:
   IVF:
                                                                    287 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                      0 mL
   Urine:
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -213 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.33/47/202/23/-1
   PaO2 / FiO2: 404
   Physical Examination
   General Appearance: Well nourished, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : on
   right), (Breath Sounds: Clear : on left, Crackles : on right,
   Diminished: on right)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   181 K/uL
   10.5 g/dL
   90 mg/dL
   2.4 mg/dL
   23 mEq/L
   5.1 mEq/L
   68 mg/dL
   100 mEq/L
   136 mEq/L
   31.7 %
   11.1 K/uL
        [image002.jpg]
                             [**2191-1-20**]  11:26 PM
                             [**2191-1-21**]  04:55 AM
                             [**2191-1-21**]  07:00 AM
                             [**2191-1-22**]  06:37 AM
                             [**2191-1-23**]  01:02 AM
                             [**2191-1-23**]  01:42 AM
                             [**2191-1-24**]  03:35 AM
                             [**2191-1-24**]  10:57 AM
                             [**2191-1-25**]  04:37 AM
   WBC
   7.6
   10.6
   12.0
   10.4
   11.1
   Hct
   39.2
   35.6
   35.1
   37
   33.5
   31.7
   Plt
   [**Telephone/Fax (3) 10971**]74
   181
   Cr
   2.1
   2.0
   1.9
   2.5
   2.3
   2.4
   TCO2
   26
   26
   Glucose
   173
   181
   169
   94
   108
   116
   87
   90
   Other labs: PT / PTT / INR:14.9/103.3/1.3, CK / CKMB / Troponin-T:59//,
   Differential-Neuts:70.0 %, Band:0.0 %, Lymph:7.0 %, Mono:21.0 %,
   Eos:2.0 %, D-dimer:6615 ng/mL, Lactic Acid:0.8 mmol/L, Ca++:8.2 mg/dL,
   Mg++:2.9 mg/dL, PO4:4.0 mg/dL
   Imaging: [**1-24**]: BILATERAL LOWER EXTREMITY VENOUS ULTRASOUND.
   COMPARISON: None.
   FINDINGS: Color and Doppler son[**Name (NI) 10990**] of bilateral common femoral,
   superficial femoral, popliteal and calf vessels were performed. Vessels
   demonstrated normal flow, compressibility, and augmentation.
   IMPRESSION: No DVT in the right or left lower extremity.
   Microbiology: Sputum culture: commensurate respiratory flora.
   Blood and urine cultures: no growth to date.
   Assessment and Plan
   68M with MMP presents with VT storm and ICD firing. Transferred for EP
   ablation, developed CP while in the lab and therefore went to the cath
   lab, at which point [**Name (NI) 1285**] x2 were placed to his LCx
   # Hypoxia
 patient has known pneumonia with sputum culture pending and
   large Right sided pleural effusion.  LENIs were negative on [**2191-1-24**].
   Upon contacting PCP, [**Name10 (NameIs) **] has had multiple admissions prior for COPD
   exacerbation and pleural effusion.  Appears that he had aspirated in EP
   lab.
   -          cont to treat pneumonia
   -          unlikely to be PE, more likely cause already identified
   stop heparin
   -          obtain PCP and OSH records concerning COPD/ pleural
   effusion.
   # Pneumonia
 patient has RLL pneumonia with effusion on CXR.
   Switched from Ceftriaxone/Azithro to Cefepime/Vanc yesterday for
   healthcare-associated pneumonia.  Decub Xray appears to show loculated
   effusion; not likely empyema, no fevers.  Appears to have aspirated in
   EP lab late last week.
   -          continue vanc/cefepime (day# 4 total abx ; day #3
   vanc/cefepime; day#2 flagyl)
   .
   # Acute kidney injury
 likely secondary to dye load post Cath, however
   may have pre-renal component.  Urine Eosinophils negative. FeUrea
   borderline.  Given 500cc fluids yesterday because of poor po intake and
   appeared dry on exam.  Creatine stable from yesterday.
   -                Hold ace inhibitor
   -                Continue to trend ; consider repeat urine lytes, may
   still be prerenal
 appeared to respond to fluids yesterday, though O2
   requirement increased
   -                [**Hospital1 **] creatinine
   # VTach-- Small runs of Vtach overnight.  He developed chest pain while
   in EP lab, and had a cath with [**Hospital1 1285**] to proximal and mid LCx 90% and 80%
   lesions.
   - Medications per EP recs
   - continue b-blockers and amio
   - replete electrolytes as needed
   - avoid adrenergic stimuli
   # CAD: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1285**] [**Last Name (Prefixes) 9743**] to proximal and mid LCx as above.  He will
   require plavix x 1 year.
   -          Continue ASA, statin, plavix, BB
   # HTN:
   Well controlled with home regimen
   - Continue metoprolol
   # Hyperlipidemia:
   -- Continue Zetia/Simvastatin
   # COPD:
   Prior smoking history, intermittent O2 use at home, usually with CHF
   flairs.
   - O2 prn
   - Albuterol and atrovent nebs
   # Afib: Well rate controlled, currently A paced. On no anticoagulation
   although CHADS score is 6
   -- Continue ASA, Plavix for now. No heparin drip.
   # OSA:
   - continue with CPAP
   # Diabetes:
   n        Continue home Novolog and Lantus
   n        Sliding scale decrease to slightly less aggressive coverage.
   # BPH:
   -- Continue home meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-1-24**] 11:33 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:CCU

2191-01-26 07:00:00 Physician Resident Progress Note
Chief Complaint: 68M with MMP presents with VT storm and ICD firing.
   Transferred for EP ablation, developed CP while in the lab and
   therefore went to the cath lab, at which point [** 1285**] x2 were placed to
   his LCx
   24 Hour Events:
   - heparin IV stopped
   - patient was noted to have low urine output, PO intake encouraged
   - did not sleep well the night before, during the day was quite
   somlonent although easily roused
   Allergies:
   Atenolol
   Unknown;
   Atorvastatin
   Unknown;
   Carbamazepine
   Unknown;
   Chlorhexidine
   Unknown;
   Codeine
   Unknown;
   Fentanyl
   Unknown;
   Oxycodone
   Unknown;
   Propoxyphene
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-1-25**] 12:00 PM
   Vancomycin - [**2191-1-25**] 01:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-26**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 70 (70 - 70) bpm
   BP: 98/51(62) {90/37(51) - 126/81(88)} mmHg
   RR: 25 (14 - 28) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Wgt (current): 80.8 kg (admission): 80 kg
   Height: 70 Inch
                  Total In:
                                                                  1,204 mL
                                                                    480 mL
   PO:
                                                                    800 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    404 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                      0 mL
   Urine:
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    429 mL
                                                                    480 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffuse, worse in basilar regions)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   185 K/uL
   10.4 g/dL
   71 mg/dL
   2.4 mg/dL
   25 mEq/L
   4.8 mEq/L
   70 mg/dL
   98 mEq/L
   133 mEq/L
   31.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2191-1-20**]  11:26 PM
                             [**2191-1-21**]  04:55 AM
                             [**2191-1-21**]  07:00 AM
                             [**2191-1-22**]  06:37 AM
                             [**2191-1-23**]  01:02 AM
                             [**2191-1-23**]  01:42 AM
                             [**2191-1-24**]  03:35 AM
                             [**2191-1-24**]  10:57 AM
                             [**2191-1-25**]  04:37 AM
                             [**2191-1-26**]  05:30 AM
   WBC
   7.6
   10.6
   12.0
   10.4
   11.1
   10.0
   Hct
   39.2
   35.6
   35.1
   37
   33.5
   31.7
   31.4
   Plt
   [**Telephone/Fax (3) 10971**]74
   181
   185
   Cr
   2.1
   2.0
   1.9
   2.5
   2.3
   2.4
   2.4
   TCO2
   26
   26
   Glucose
   173
   181
   169
   94
   108
   116
   87
   90
   71
   Other labs: PT / PTT / INR:14.9/103.3/1.3, CK / CKMB / Troponin-T:59//,
   Differential-Neuts:70.0 %, Band:0.0 %, Lymph:7.0 %, Mono:21.0 %,
   Eos:2.0 %, D-dimer:6615 ng/mL, Lactic Acid:0.8 mmol/L, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Microbiology: Sputum culture: oropharyngeal flora
   Assessment and Plan
   68M with MMP presents with VT storm and ICD firing. Transferred for EP
   ablation, developed CP while in the lab and therefore went to the cath
   lab, at which point [**Telephone/Fax (3) 1285**] x2 were placed to his LCx
   # Hypoxia
 patient has known pneumonia with sputum culture pending and
   large Right sided pleural effusion.  LENIs were negative on [**2191-1-24**].
   Upon contacting PCP, [**Name10 (NameIs) **] has had multiple admissions prior for COPD
   exacerbation and pleural effusion.  Appears that he had aspirated in EP
   lab.
   - cont to treat pneumonia
   - repeat CXR
   - attempt to get sputum cultures
   - TTE to eval for HF
   - consider steroids to check for COPD exacerbation
   - consider thoracocentesis
   - unlikely to be PE, more likely cause already identified
 stopped
   heparin
   - obtain PCP and OSH records concerning COPD/ pleural effusion
   # Pneumonia
 patient has RLL pneumonia with effusion on CXR.
   Switched from Ceftriaxone/Azithro to Cefepime/Vanc for
   healthcare-associated pneumonia.  Decub Xray appears to show loculated
   effusion; not likely empyema, no fevers.  Appears to have aspirated in
   EP lab late last week so added flagyl.
   - continue vanc/cefepime/flagyl (day# 4 total abx; day #3
   vanc/cefepime; day#2 flagyl)
   - per above
   # Acute kidney injury
 likely secondary to dye load post Cath, however
   may have pre-renal component.  Urine Eosinophils negative. FeUrea
   borderline.  Creatine stable from yesterday.
   - Hold ace inhibitor
   - consider repeat urine lytes
   - IVF prn vs diuresis
 eval with TTE for HF
   - trend daily cr
   # VTach-- Small runs of VTach overnight.  He developed chest pain while
   in EP lab, and had a cath with [**Name10 (NameIs) 1285**] to proximal and mid LCx 90% and 80%
   lesions.
   - Medications per EP recs
   - continue b-blockers
   - continue amio
   - replete electrolytes as needed
   - avoid adrenergic stimuli
   # CAD: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1285**] [**Last Name (Prefixes) 9743**] to proximal and mid LCx as above.  He will
   require plavix x 1 year.
   - Continue ASA
   - continue plavix
   - continue beta blocker
   - continue statin
   - consider adding ACEi when kidney function improves
   # HTN: Well controlled with home regimen
   - Continue beta blocker
   - consider adding ACEi when kidney function improves
   # Hyperlipidemia:
   - Continue Zetia/Simvastatin
   # COPD: Prior smoking history, intermittent O2 use at home, usually
   with CHF flairs.
   - O2 prn - wean as tolerated keeping SaO2 > 90%
   - Albuterol and atrovent nebs
   - consider steroids
   - continue antibiotics
   # Afib: Well rate controlled, currently A paced. On no anticoagulation
   although CHADS score is 6
   - Continue ASA
   - Continue plavix
   - no heparin gtt
   # OSA:
   - continue CPAP overnight
   # Diabetes:
   - Continue home Novolog and Lantus
   - ISS
   # BPH:
   - Continue home
   ICU Care
   Nutrition:
   Comments: cardiac/diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2191-1-24**] 11:33 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), okay to intubate
   Disposition:ICU
 possibly to floor later today
   ------ Protected Section ------
   Attending
s Note:16.00hrs.
   Reviewed data and examined Pt.
   He has COPD and I suspect his O2 Sats. at home on room air are not 90%
   or better.
   His CXR supports aspiration Pneumonia and he is starting to  bring up
   sputum.
   No sustained  VT on Amio for past 5days,post PCI.
   Agree with Dr.[**Doctor Last Name 11016**]
s Rx outline.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2191-1-26**] 17:55 ------

2191-01-28 08:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: VT storm, pneumonia
   24 Hour Events:
   - 12 beat run NSVT, a few more noted post albuterol
   - satting ~88-92% on 4L NC ; when moves around or coughs, he desats to
   ~84% then sats drift back upwards
   - chest pain while getting CT chest - gave 1 morphine, CP resolved -
   EKG useless per [**Doctor Last Name 4877**], sending CE
   - CT shows effusion, bilateral edema/infiltrate - will need to follow
   final read
   - [**Doctor Last Name **] say call out, respiratory status at baseline
   Allergies:
   Atenolol
   Unknown;
   Atorvastatin
   Unknown;
   Carbamazepine
   Unknown;
   Chlorhexidine
   Unknown;
   Codeine
   Unknown;
   Fentanyl
   Unknown;
   Oxycodone
   Unknown;
   Propoxyphene
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2191-1-27**] 01:10 PM
   Vancomycin - [**2191-1-27**] 05:15 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2191-1-27**] 02:59 PM
   Heparin Sodium (Prophylaxis) - [**2191-1-27**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-1-28**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**92**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 70 (70 - 70) bpm
   BP: 117/70(80) {82/44(57) - 137/110(117)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
   Wgt (current): 83.2 kg (admission): 80 kg
   Height: 70 Inch
                  Total In:
                                                                  1,300 mL
                                                                    120 mL
   PO:
                                                                  1,000 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    350 mL
   Urine:
                                                                  1,265 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     35 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, ill appearing
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Percussion: Dullness : on right base.), (Breath
   Sounds: Crackles : R>L, No(t) Bronchial: , Rhonchorous: R>L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, oriented x 3
   Labs / Radiology
   215 K/uL
   10.3 g/dL
   117 mg/dL
   2.3 mg/dL
   25 mEq/L
   4.9 mEq/L
   74 mg/dL
   98 mEq/L
   133 mEq/L
   33.2 %
   8.1 K/uL
        [image002.jpg]
                             [**2191-1-22**]  06:37 AM
                             [**2191-1-23**]  01:02 AM
                             [**2191-1-23**]  01:42 AM
                             [**2191-1-24**]  03:35 AM
                             [**2191-1-24**]  10:57 AM
                             [**2191-1-25**]  04:37 AM
                             [**2191-1-26**]  05:30 AM
                             [**2191-1-27**]  03:00 AM
                             [**2191-1-27**]  09:05 PM
                             [**2191-1-28**]  04:16 AM
   WBC
   10.6
   12.0
   10.4
   11.1
   10.0
   8.3
   8.1
   Hct
   35.6
   35.1
   37
   33.5
   31.7
   31.4
   31.3
   33.2
   Plt
   220
   183
   174
   181
   185
   192
   215
   Cr
   1.9
   2.5
   2.3
   2.4
   2.4
   2.3
   2.3
   TropT
   0.04
   0.05
   TCO2
   26
   26
   Glucose
   94
   108
   116
   87
   90
   71
   96
   117
   Other labs: PT / PTT / INR:15.3/32.1/1.3, CK / CKMB /
   Troponin-T:56//0.05, Differential-Neuts:70.0 %, Band:0.0 %, Lymph:7.0
   %, Mono:21.0 %, Eos:2.0 %, D-dimer:6615 ng/mL, Lactic Acid:0.8 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   68M with MMP presents with VT storm and ICD firing. Transferred for EP
   ablation, developed CP while in the lab and therefore went to the cath
   lab, at which point [**Year (4 digits) 1285**] x2 were placed to his LCx.
   # Hypoxia
 patient has known pneumonia with sputum culture pending and
   large Right sided pleural effusion.  LENIs were negative on [**2191-1-24**].
   Upon contacting PCP, [**Name10 (NameIs) **] has had multiple admissions prior for COPD
   exacerbation and pleural effusion.  Appears that he had aspirated in EP
   lab. No change in CXR. EF 30%. Likely secondary to pneumonia or
   pulmonary edema secondary to acute systolic HF or COPD exacerbation.
   OSH records not helpful.  Amiodarone toxicity possible as well but
   unlikely.
   - cont to treat pneumonia
   - attempt to get sputum cultures
   - continue diuresis
   -pulmonary consult
   - ocean nasal spray for epistaxis from O2.
   -discuss with pulmonary, radiology the possibility of Amiodarone lung
   toxicity.
   - guaifenisen for cough.
   # Pneumonia
 patient has RLL pneumonia with effusion on CXR.
   Switched from Ceftriaxone/Azithro to Cefepime/Vanc for
   healthcare-associated pneumonia.  Decub Xray appears to show loculated
   effusion; not likely empyema, no fevers.  Appears to have aspirated in
   EP lab late last week so added flagyl. Does not appear to be getting
   better. Should get thoracentesis to determine if need to place chest
   tube.
   - continue vanc/cefepime/flagyl (day# 7 total abx; day #6
   vanc/cefepime; day#5 flagyl)
   - per above
   # Acute kidney injury
 ?dye load vs pre-renal.  Urine Eosinophils
   negative. FeUrea borderline.  Creatine stable from yesterday.
   - Hold ace inhibitor
   - trend daily cr
   # VTach - Small runs of VTach overnight.  He developed chest pain while
   in EP lab, and had a cath with [**Name10 (NameIs) 1285**] to proximal and mid LCx 90% and 80%
   lesions.
   - Medications per EP recs
   - continue b-blockers
   - continue amio
   - replete electrolytes as needed
   - avoid adrenergic stimuli
   # CAD: s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1285**] [**Last Name (Prefixes) 9743**] to proximal and mid LCx as above.  He will
   require plavix x 1 year.
   - Continue ASA
   - continue plavix
   - continue beta blocker
   - continue statin
   - consider adding ACEi when kidney function improves
   # HTN: Well controlled with home regimen
   - Continue beta blocker
   - consider adding ACEi when kidney function improves
   # Hyperlipidemia:
   - Continue Zetia/Simvastatin
   # COPD: Prior smoking history, intermittent O2 use at home, usually
   with CHF flairs.
   - O2 prn - wean as tolerated keeping SaO2 > 90%
   - Albuterol and atrovent nebs
   - continue antibiotics
   # Afib: Well rate controlled, currently A paced. On no anticoagulation
   although CHADS score is 6
   - Continue ASA
   - Continue plavix
   - no heparin gtt
   # OSA:
   - continue CPAP overnight as tolerated.
   # Diabetes:
   - Continue home Novolog and Lantus
   - ISS
   # BPH:
   - Continue home medications
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-1-24**] 11:33 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:CCU